US04111923
(c) D-Alanyl-L-leucine, methyl ester, hydrochloride
A solution of 7 g. of Nα -benzyloxycarbonyl-D-alanyl-L-leucine, methyl ester in 100 ml. of methanol and 22 ml. of 0.95 l N hydrogen chloride in methanol is stirred with 500 mg. of 20% palladium on carbon catalyst under hydrogen at one inch water pressure until thin layer chromatography of a sample shows complete conversion (three to six hours). The solution is filtered to remove the catalyst and is evaporated to a foam. Solution in chloroform, 50 ml., and precipitation by ethyl ether affords an oil which is collected and dried at 45° C. and 1 mm. pressure. The oil is used in the next step without further purification.

reactant | Nα -benzyloxycarbonyl-D-alanyl-L-leucine, methyl ester | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C(=O)N[C@@H](CC(C)C)C(=O)OC | C18H26N2O5
reactant | hydrogen chloride | Cl | ClH
reactant | water | O | H2O
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | D-Alanyl-L-leucine, methyl ester, hydrochloride | Cl.N[C@H](C)C(=O)N[C@@H](CC(C)C)C(=O)OC | InChI=1S/C10H20N2O3.ClH/c1-6(2)5-8(10(14)15-4)12-9(13)7(3)11;/h6-8H,5,11H2,1-4H3,(H,12,13);1H/t7-,8+;/m1./s1
